US03943124
3α-Hydroxy-17β-(3'-morpholinopropoxycarbonyl)-5α-androstan-11-one
A solution of 17β(3'-morpholinopropoxycarbonyl)-5α-androstan-3,11-dione (140 mg.) in isopropanol (1 ml.) was added to a "stock" solution of the chloroiridic acid reagent (7 ml.) which had been neutralised to ca. pH 6 with triethylamine immediately prior to the addition. After refluxing for 7 hr., isolation of the product afforded a gum (150 mg.) which, after purification by preparative t.l.c., gave the title compound as a white froth; 112 mg., [α]D + 51° (c, 0.6,).

reactant | 17β(3'-morpholinopropoxycarbonyl)-5α-androstan-3,11-dione | 140 mg | O1CCN(CC1)CCCOC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1C(C2)=O)=O | C27H41NO5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
catalyst | chloroiridic acid | 7 ml | O.Cl.Cl.Cl[Ir](Cl)(Cl)Cl
product | 3α-Hydroxy-17β-(3'-morpholinopropoxycarbonyl)-5α-androstan-11-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)OCCCN1CCOCC1 | C27H43NO5
